US06028195
1-{N-[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]-N-methylaminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine
1-[N-(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(0.47 mmol) was dissolved in anhydrous ethanol(15 ml) and thereto sodium borohydride(17.3 mg) was added, then followed by stirring at room temperature for 2 hrs. The resulting mixture was concentrated under the reduced pressure to remove ethanol and purified by column chromatography(ethylacetate:hexane=2:1) to obtain the titled compound.

reactant | 1-[N-(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.47 mmol | C(C)(=O)C=1C=C(C(=NC1C)OC)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C | C23H30N4O5
reactant | sodium borohydride | 17.3 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-{N-[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]-N-methylaminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | yield: 97% | OC(C)C=1C=C(C(=NC1C)OC)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C | C23H32N4O5
